US04077965
Potassium 3-(3-hydroxypropionyl)dithiocarbazate (12 g) was added bit by bit to a mixture of conc. sulfuric acid (15 ml) and ethyl acetate (75 ml) at 0° to 5° C over 15 minutes. The mixture was stirred for an hour at the same temperature. The reaction mixture was poured into ethyl acetate (800 ml), and the organic phase washed with a saturated aqueous solution of sodium chloride and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure to give an oily residue. Petroleum ether was added thereto to solidify and the solid substance was washed with benzene to give 5-(2-hydroxyethyl)-1,3,4-thiadiazole-2-thiol (2.2 g). m.p. 101° to 103° C.

reactant | Potassium 3-(3-hydroxypropionyl)dithiocarbazate | 12 g | OCCC(=O)NNC(=S)[S-].[K+]
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 5-(2-hydroxyethyl)-1,3,4-thiadiazole-2-thiol | 2.2 g | OCCC1=NN=C(S1)S | C4H6N2OS2
